US04001426
2-[4'-(2-Dimethylaminoethoxy)phenyl]-3-(3',4',5'-trimethylbenzoyl)benzofuran
2-p-Hydroxyphenyl-3-(3',4',5'-trimethylbenzoyl)benzofuran (5.4 g., 15.3 mmol.) was dissolved in 200 ml. of dry acetone and 10.5 g. (0.076 mol.) of potassium carbonate and 2.10 g. (15.3 mmol.) of 2-dimethylaminoethyl chloride were added. The reaction mixture was refluxed for three hours, then it was cooled and filtered. The filtrate was concentrated under reduced pressure to give the title compound.

reactant | 2-p-Hydroxyphenyl-3-(3',4',5'-trimethylbenzoyl)benzofuran | 15.3 mmol, 5.4 g | OC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=C(C(=C1)C)C)C)=O)C=CC=C2 | C24H20O3
reactant | potassium carbonate | 0.076 mol | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride | 15.3 mmol | CN(CCCl)C | C4H10ClN
solvent | acetone | CC(=O)C | C3H6O
product | 2-[4'-(2-Dimethylaminoethoxy)phenyl]-3-(3',4',5'-trimethylbenzoyl)benzofuran | CN(CCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=C(C(=C1)C)C)C)=O)C=CC=C2)C | C28H29NO3
